US05182284
A 20 g (0.18 mole) quantity of N-formylpiperazine, 37.2 ml (0.18 mole) of 1-bromodecane and 25 g (0.18 mole) of potassium carbonate were suspended in 20 ml of N,N-dimethylformamide and the suspension was stirred at 80° C. for 3 hours. The suspension was further extracted with 300 ml of benzene, and the organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in 80 ml of methanol, and 20 ml of concentrated hydrochloric acid was added thereto and the mixture was refluxed for 3 hours. The solvent was evaporated under reduced pressure and the precipitated crystals were washed with acetone, giving 35.6 g (yield: 66%) of N-decylpiperazine as the hydrochloride.

reactant | N-formylpiperazine | C(=O)N1CCNCC1 | C5H10N2O
reactant | 1-bromodecane | 0.18 mole, 37.2 ml | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 0.18 mole, 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-decylpiperazine | 35.6 g, yield: 66% | C(CCCCCCCCC)N1CCNCC1 | C14H30N2
